US05340931
Into a reaction flask fitted with a stirrer, a thermometer, a nitrogen gas inlet tube and a reflux condenser, were placed 24.140 parts of p-hydroxybiphenyl, 51.120 parts of deionized water, 6.427 parts of NaOH and 0.127 part of tetrabutylammonium bromide and to this mixture, 18.161 parts of propargyl bromide was added dropwise and reacted at 80° C. for 6 hours. After completion of the reaction, the content was treated with an aqueous NaOH solution and then subjected to a fractionation with ethyl acetate. Thereafter, magnesium sulfate was added and the mixture was kept standing overnight to effect dehydration. After filtering off magnesium sulfate, the solvent was removed off by an evaporator and the residue was subjected to a column chromatography (silica gel 200 mesh) to obtain a purified 1-propargyloxybiphenyl. Yield 53.1%

reactant | p-hydroxybiphenyl | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | NaOH | [OH-].[Na+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-propargyloxybiphenyl | Yield 53.1% | C(C#C)OC1(CC=CC=C1)C1=CC=CC=C1 | C15H14O
